US04156011
(b) p-(p-Chlorophenoxy)-anisole
A mixture of 67 g (0.520 mol) of p-chlorophenol and 29.5 g (0.520 mol) of KOH pellets is heated to 100° C. for 2 hours under a pressure of about 5 mm Hg. Thereafter 117 g (0.625 mol) of p-bromoanisole and 1 g of copper powder are added and the mixture is then heated to about 220°-230° C. for 5 hours. The cooled reaction mixture is taken up in diethyl ether and after removing the inorganic salts by filtration the filtrate is washed with 2 N sodium hydroxide solution and with water. The solvent is driven off under reduced pressure, drying is carried out with sodium sulphate and 133 g of an orange-coloured oil are obtained. Purification of this oil by distillation under reduced pressure given 70 g of a white crystalline mass which is insoluble in water.

reactant | p-chlorophenol | 0.520 mol, 67 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | KOH | 0.520 mol, 29.5 g | [OH-].[K+]
reactant | p-bromoanisole | 0.625 mol, 117 g | BrC1=CC=C(C=C1)OC | C7H7BrO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper | 1 g | [Cu] | Cu
product | p-(p-Chlorophenoxy)-anisole | ClC1=CC=C(OC2=CC=C(C=C2)OC)C=C1 | C13H11ClO2
